US04129654
1-Methyl-6-hydroxyaminouracil
A mixture of 2 g of 1-methyl-6-aminouracil, 2 g of hydroxylamine hydrochloride and 30 ml of methyl-cellosolve is boiled for 2 hours, after which the insolubles are filtered off. The filtrate is concentrated to dryness and tritulated with water. The resultant crystals are recovered by filtration and recrystallized from ethanol. By the above procedure is obtained 1.5 g of the captioned compound as pale-yellow crystals, melting point: 247°-250° C. (decomp.).

reactant | 1-methyl-6-aminouracil | 2 g | CN1C(=O)NC(=O)C=C1N | C5H7N3O2
reactant | hydroxylamine hydrochloride | 2 g | Cl.NO
solvent | methyl-cellosolve | 30 ml | COCCO | C3H8O2
product | 1-Methyl-6-hydroxyaminouracil | 1.5 g | CN1C(=O)NC(=O)C=C1NO | C5H7N3O3
